US05574030
5-Benzyl-4-(3-morpholino-1-phenylpropyl)-3-morpholinone
To a suspension of 60% NaH (80 mg, 2 mmol) in dry dimethylformamide (8 ml) was added 5-benzyl-3-morpholinone (880 mg, 2 mmol). The mixture was stirred at room temperature for 1 hour. To this were added 4-(3-chloro-3-phenylpropyl)morpholine (480 mg, 2 mmol) and dry dimethylforamide (1 ml). The mixture was then stirred overnight at 60° C. The stirred mixture was placed under reduced pressure to evaporate the solvent. Water was added to the residue, and extraction with ethyl acetate was performed. The extract was washed with a saturated aqueous brine and dried over anhydrous sodium sulfate. The dried extract was placed under reduced pressure to remove the solvent. The oily residue was placed on silica gel column and eluated with ethyl acetate/methanol (20/1) to yield the desired diastereomer A (168 mg, 21.3) and diastereomer B (156 mg, 19.8%).

reactant | NaH | 2 mmol, 80 mg | [H-].[Na+]
reactant | 5-benzyl-3-morpholinone | 2 mmol, 880 mg | C(C1=CC=CC=C1)C1COCC(N1)=O | C11H13NO2
reactant | 4-(3-chloro-3-phenylpropyl)morpholine | 2 mmol, 480 mg | ClC(CCN1CCOCC1)C1=CC=CC=C1 | C13H18ClNO
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylforamide | 1 ml | CN(C=O)C | C3H7NO
product | 5-Benzyl-4-(3-morpholino-1-phenylpropyl)-3-morpholinone | C(C1=CC=CC=C1)C1COCC(N1C(CCN1CCOCC1)C1=CC=CC=C1)=O | C24H30N2O3
